US04191699
4-Trimethylsilylethynyl-1-octyn-4-ol
To a stirred suspension of 1.29 g of magensium and 10 mg of mercuric chloride in 12 ml of ether is added 0.4 ml of propargyl bromide. The reaction is initiated after stirring at room temperature for a few minutes. The stirred mixture is cooled in an ice-water bath and a solution of 9.64 g of n-butyl trimethylsilylethynyl ketone and 3.51 ml of propargyl bromide in 13 ml of ether is added dropwise so that the mixture is very gently boiling during 40 minutes. After addition, the cooling bath is removed and the mixture is stirred at room temperature for 1.5 hours. The mixture is recooled in an ice bath and 10 ml of saturated ammonium chloride solution is added. The resulting white mixture is filtered through diatomaceous earth. The clear mother liquor is washed with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is evaporated to dryness giving 10.5 g of a red liquid. This liquid is Kugelrohr-distilled at 60° C./0.25-0.3 mm. The pale yellow liquid distillate which is the desired product weighs 8.5 g.

reactant | propargyl bromide | 0.4 ml | C(C#C)Br | C3H3Br
reactant | n-butyl trimethylsilylethynyl ketone | 9.64 g | C[Si](C)(C)C#CC(=O)CCCC | C10H18OSi
reactant | propargyl bromide | 3.51 ml | C(C#C)Br | C3H3Br
solvent | ether | 12 ml | CCOCC | C4H10O
solvent | ether | 13 ml | CCOCC | C4H10O
product | 4-Trimethylsilylethynyl-1-octyn-4-ol | 10.5 g | C[Si](C)(C)C#CC(CC#C)(CCCC)O | C13H22OSi
